US07781436B2
[1-((S)-2-Amino-propyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone (preparation described herein), with methanesulfonic acid (S)-2-tert-butoxycarbonylamino-propyl ester (described in WO 2005100321) gave, after treatment with TFA and subsequent neutralization, the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F | C19H17ClFN3O
reactant | methanesulfonic acid (S)-2-tert-butoxycarbonylamino-propyl ester | C(C)(C)(C)OC(=O)N[C@H](COS(=O)(=O)C)C | C9H19NO5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | [1-((S)-2-Amino-propyl)-6-chloro-1H-indol-3-yl]-[4-(2-fluoro-phenyl)-piperazin-1-yl]-methanone | N[C@H](CN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCN(CC1)C1=C(C=CC=C1)F)C | C22H24ClFN4O
